US07405228B2
Preparation of (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine
The suspension of (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide (25.2 mmol) and 10% palladium on carbon (1.0 g) was in ethyl acetate (150 ml) was stirred at a room temperature under hydrogen atmosphere for 10 hours. The reaction mixture was filtered and the filtrate was concentrated to give a residue, which was purified on silica gel column chromatography to provide title compound in 89% yield.

reactant | (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide | 25.2 mmol | COC1(C(CN(CC1)C1=CC=C(C=C1)N1C(O[C@@H](C1)CN=[N+]=[N-])=O)F)OC | C17H22FN5O4
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine | 89% yield | COC1(C(CN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CN)=O)F)OC | C17H24FN3O4
